US08017789B2
In 50 mL of methylene chloride, 5.00 g of 6-(chloromethyl)-1,2-benzisoxazol-3-ol, 7.59 g of triphenylmethyl chloride and 2.20 mL of pyridine were suspended and stirred for 5 hours at room temperature. To the reaction mixture, 15 mL of water and 15 mL of methylene chloride were added, and the result was stirred for 5 minutes under reflux and heating. After cooling the reaction mixture, 2.50 g of silica gel was added. After insoluble matter was filtered off, the cake was washed with 10 mL of methylene chloride. The filtrate and the washing solution were combined and, after adding 8 mL of methylene chloride and 15 mL of water, 45 mL of solvent was distilled off under atmospheric pressure. To the reaction mixture, 35 mL of acetone was added and 33 mL of solvent was distilled off under atmospheric pressure. After adding 20 mL of water, solids were filtered and 11.3 g of 6-(chloromethyl)-2-triphenylmethyl-1,2-benzisoxazol-3(2H)-one was obtained in the form of a pale yellowish-white solid.

reactant | 6-(chloromethyl)-1,2-benzisoxazol-3-ol | 5.00 g | ClCC1=CC2=C(C(=NO2)O)C=C1 | C8H6ClNO2
reactant | triphenylmethyl chloride | 7.59 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyridine | 2.20 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 15 mL | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 6-(chloromethyl)-2-triphenylmethyl-1,2-benzisoxazol-3(2H)-one | 11.3 g | ClCC1=CC2=C(C(N(O2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C27H20ClNO2
